US08486970B2
To 2.04 g of (4-methyl-1H-imidazol-5-yl)methanol hydrochloride was added 20 ml of acetonitrile, and 2.1 ml of triethylamine, 3.14 g of di-tert-butyl dicarbonate, and 0.17 g of DMAP were added thereto under ice-cooling, followed by stirring at room temperature. After concentrating the reaction solution under reduced pressure, ethyl acetate and water were added thereto to carry out a liquid separation operation, and the organic layer was washed with a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, and then evaporated under reduced pressure. The obtained residue was reacted with N-hydroxyphthalimide in accordance with Production Example 14, reacted with methylamine in accordance with Production Example 9, and then subjected to deprotection of a Boc group in accordance with Production Example 26 to obtain 0.53 g of 5-[(aminooxy)methyl]-4-methyl-1H-imidazole dihydrochloride as a colorless solid.

reactant | (4-methyl-1H-imidazol-5-yl)methanol hydrochloride | 2.04 g | Cl.CC=1N=CNC1CO
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | di-tert-butyl dicarbonate | 3.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methylamine | CN | CH5N
catalyst | DMAP | 0.17 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
product | 5-[(aminooxy)methyl]-4-methyl-1H-imidazole dihydrochloride | 0.53 g | Cl.Cl.NOCC1=C(N=CN1)C | InChI=1S/C5H9N3O.2ClH/c1-4-5(2-9-6)8-3-7-4;;/h3H,2,6H2,1H3,(H,7,8);2*1H
